Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],4.028658353430002
[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:5].[O:1]=[C:2]([C:3][H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],4.86551460816
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:1]#[C:2][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10].[H:3],3.94330884754
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.99218872776
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15],1.87775608406
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],2.72682366286
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4](=[O:5])[C:9]([H:10])([H:11])[H:12],2.0034536323400003
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9][H:10],5.056745923209999
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.89346874852
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:4],1.94653884477
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.93365959809
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8]=[C:9]([H:10])[C:11]([H:12])[H:13],3.69145672426
[C:1](=[C:2]=[O:3])[O:4][C:5]([H:6])[H:7]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7],2.23785311403
[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.05527595271
[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-1.33389751715
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-1.74609847995
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.11952040444
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-1.7423199841
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],-2.6474619394
[H:1][O:2][C@@:3]([H:4])([C:5][C:8](=[C:6][H:7])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]1=[C:6]([H:7])[C:8]1[H:9])[C:10]([H:11])([H:12])[H:13],-2.0910137679900003
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[C:3][H:4],2.93491471178
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],0.696577020809
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],0.829705312177
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.16060460269
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3],5.68040430283
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15],4.58399155954
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10].[H:3],4.0125116093
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.77317989018
